US06924342B2
Propylene/1-Octene Polymerization Using Catalyst E and Catalyst F
The general procedure for the 1 gallon continuous solution polymerization outlined in Example 6 is employed, except that propylene and a small amount of ethylene are used instead of ethylene in order to prepare an isotactic propylene/1-octene/ethylene interpolymer. For this example, the reactor temperature is 55 degrees C., propylene is fed into the reactor at 19.97 pounds/hour, ethylene is metered into the reactor at 0.14 pounds per hour, octene is fed at 4.99 pounds/hour, and ISOPAR E solvent is fed at 24.27 pounds per hour. A catalyst solution containing 0.70 ppm Zr from Catalyst E and 0.80 ppm of Zr from Catalyst F was prepared and added to a 4 L catalyst storage tank. This solution was combined in a continuous stream with a continuous stream of a solution containing Armeenium borate in ISOPAR E and a continuous stream of a solution of MMAO-3A in ISOPAR E to give a ratio of total Zr:B:Al of 1:1.2:6. The activated catalyst solution is fed continuously into the reactor at a rate sufficient to maintain the reactor temperature at approximately 55 degrees C. Hydrogen is added as needed to control the molecular weight of the product. The polymer solution is continuously removed from the reactor exit and is contacted with a solution containing 100 ppm of water for each part of the polymer solution, and polymer stabilizers. The resulting exit stream is mixed, heated in a heat exchanger, and the mixture is introduced into a separator where the molten polymer is separated from the solvent and unreacted monomers. The resulting molten polymer is extruded and chopped into pellets after being cooled in a water bath. Product samples are collected over 1 hour time periods, after which time the melt index and density are determined for each sample. A propylene/1-octene/ethylene interpolymer is collected with a melting point of about 75 degrees C., and a melt index of about 2.

reactant | propylene | C=CC | C3H6
reactant | ethylene | C=C | C2H4
reactant | propylene/1-octene ethylene | C=CC.C=CCCCCCC.C=C
reactant | octene | C=CCCCCCC | C8H16
reactant | borate | B([O-])([O-])[O-]
reactant | Hydrogen | [H][H] | H2
product | Propylene/1-Octene | C=CC.C=CCCCCCC | InChI=1S/C8H16.C3H6/c1-3-5-7-8-6-4-2;1-3-2/h3H,1,4-8H2,2H3;3H,1H2,2H3
